US06184225B2
Ethyl 3-methoxy-4-(2-methoxyethoxy)benzoate (9.5 g, 37 mmol) was added portionwise to stirred concentrated nitric acid (75 ml) at 0° C. The mixture was allowed to warm to ambient temperature and stirred for a further 90 minutes. The mixture was diluted with water and extracted with methylene chloride, dried (MgSO4) and the solvent removed by evaporation. The residue was triturated with hexane to give ethyl 5-methoxy-4-(2-methoxyethoxy)-2-nitrobenzoate (10.6 g, 95%) as an orange solid.

reactant | Ethyl 3-methoxy-4-(2-methoxyethoxy)benzoate | 37 mmol, 9.5 g | COC=1C=C(C(=O)OCC)C=CC1OCCOC | C13H18O5
reactant | nitric acid | 75 ml | [N+](=O)(O)[O-] | HNO3
solvent | water | O | H2O
product | ethyl 5-methoxy-4-(2-methoxyethoxy)-2-nitrobenzoate | 10.6 g, 95% | COC=1C(=CC(=C(C(=O)OCC)C1)[N+](=O)[O-])OCCOC | C13H17NO7
